US06399601B1
2-Bromo-4H-furo[3,2-b]pyrrole-5-carboxylic Acid
2-Bromo-4H-furo[3,2-b]pyrrole-carboxylic acid ethyl ester (Krutosikova, A.; Kovac, J.; Dandarova, M.; Lesko, J.; Ferik, S., Collect Czech. Chem. Commun., 46: 2564-2573 (1981)) was hydrolyzed according to Procedure E (4 equiv 2 N NaOH, ethanol; reflux 5h, room temperature overnight; after concentration to remove ethanol, residue partitioned between ethyl acetate and 2 N HCl; combined organic phases dried over Na2SO4; no purification). 1H NMR (DMSO-d6) δ 12.47 (br s, 1H), 11.67 (s, 1H), 6.76 (d, J=0.8 Hz, 1H), 6.67 (t, J=0.8Hz, 1H).

reactant | 2-Bromo-4H-furo[3,2-b]pyrrole-carboxylic acid ethyl ester | C(C)OC(=O)C1(CC=2NC=CC2O1)Br | C9H10BrNO3
reactant | NaOH | 2 N, 4 equiv | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
product | 2-Bromo-4H-furo[3,2-b]pyrrole-5-carboxylic Acid | BrC1=CC=2NC(=CC2O1)C(=O)O | C7H4BrNO3
